US05500408
To a solution containing 0.49 g of 3-amino-4-(2,6-dichlorophenyl)-1,2,5-thiadiazole and 0.22 g of triethylamine in N,N-diemthylformamide, 0.20 g of acetyl chloride was added and the mixture was stirred at 60° C. for 12 hours. After allowing to cool, the mixture was poured into water and was extracted with ether. The ether layer was washed twice with dilute hydrochloric acid, twice with water and twice with saturated aqueous sodium chloride solution. The resultant was dried over anhydrous sodium sulfate, concentrated and purified by silica gel chromatography to obtain 0.25 g of 3-acetylamino-4-(2,6-dichlorophenyl)-1,2,5-thiadiazole.

reactant | 3-amino-4-(2,6-dichlorophenyl)-1,2,5-thiadiazole | 0.49 g | NC1=NSN=C1C1=C(C=CC=C1Cl)Cl | C8H5Cl2N3S
reactant | triethylamine | 0.22 g | C(C)N(CC)CC | C6H15N
reactant | acetyl chloride | 0.20 g | C(C)(=O)Cl | C2H3ClO
solvent | water | O | H2O
product | 3-acetylamino-4-(2,6-dichlorophenyl)-1,2,5-thiadiazole | 0.25 g | C(C)(=O)NC1=NSN=C1C1=C(C=CC=C1Cl)Cl | C10H7Cl2N3OS
